US05998433
c) Synthesis of 1-(2-methylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-6-phenylhexan-1-one hydrochloride
1-[2-(N-tert-Butoxycarbonyl-N-methylaminomethyl)-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl]-6-phenylhexan-1-one 0.191 g was dissolved in 2 ml of methanol; 0.5 ml of concentrated hydrochloric acid was added, followed by stirring for 30 minutes. This mixture was concentrated to yield the desired product.

reactant | 1-[2-(N-tert-Butoxycarbonyl-N-methylaminomethyl)-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl]-6-phenylhexan-1-one | 0.191 g | C(C)(C)(C)OC(=O)N(C)CC1=CC2=C(CN(CC2)C(CCCCCC2=CC=CC=C2)=O)O1 | C26H36N2O4
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | 1-(2-methylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-6-phenylhexan-1-one hydrochloride | Cl.CNCC1=CC2=C(CN(CC2)C(CCCCCC2=CC=CC=C2)=O)O1 | InChI=1S/C21H28N2O2.ClH/c1-22-15-19-14-18-12-13-23(16-20(18)25-19)21(24)11-7-3-6-10-17-8-4-2-5-9-17;/h2,4-5,8-9,14,22H,3,6-7,10-13,15-16H2,1H3;1H
